US05342952
To a stirred -10° C. solution of N,N-diphenylacetamide (211 g, 1.0 mol) in tetrahydrofuran (1.0 L) is slowly added a solution of lithium diisopropylamide in tetrahydrofuran-heptane (0.5 L of 2M) while maintaining the temperature between -10° C. to -5° C. The mixture is stirred at -0° C. to 20° C. for 30 minutes. (R)-4-cyano-3-hydroxybutyric acid, ethyl ester (Brower, supra) (40 g, 0.25 mol) as a solution in 200 mL of tetrahydrofuran is added to the previously prepared anion. The reaction mixture is stirred for 30 minutes at -5° C. to -20° C., and transferred to a 2.2N aqueous hydrochloric acid solution (1 L). The aqueous layer is extracted with 500 mL of ethyl acetate, the aqueous layer is separated and reextracted with 100 mL of ethyl acetate, the extracts are combined and concentrated in vacuo to afford crude (R)-6 -cyano-5-hydroxy-3-oxo-N,N-diphenylhexanamide which is not isolated. A small sample is purified by column chromatography on flash silica gel (60:40 hexane:ethyl acetate) as an oil. Proton nuclear magnetic resonance spectroscopy

reactant | N,N-diphenylacetamide | 1.0 mol, 211 g | C1(=CC=CC=C1)N(C(C)=O)C1=CC=CC=C1 | C14H13NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-4-cyano-3-hydroxybutyric acid, ethyl ester | 0.25 mol, 40 g | C(#N)C[C@H](CC(=O)OCC)O | C7H11NO3
reactant | hydrochloric acid | 2.2N, 1 L | Cl | ClH
solvent | tetrahydrofuran | 1.0 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | 2M, 0.5 L | O1CCCC1.CCCCCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (R)-6 -cyano-5-hydroxy-3-oxo-N,N-diphenylhexanamide | C(#N)C[C@H](CC(CC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C19H18N2O3
